US05495020
Employing ethyl 1-ethyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-caboxylate (6.51 g) and conc. hydrochloric acid : 90% acetic acid (1:4) (100 ml), the procedure of Reference Example 23 is repeated to give 1-ethyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylic acid (5.53 g), as colorless needles (recrystallized from dichloromethane--n-hexane), m.p. 203°-204° C.

reactant | ethyl 1-ethyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-caboxylate | 6.51 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)OCC | C15H14F3NO3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylic acid | 5.53 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C13H10F3NO3
